US07906516B2
4.1 1.48 ml (19.9 mmol) of 37% aqueous formaldehyde solution are added to a solution of 2.00 g (19.0 mmol) of DL-isoserine in 10 ml of 1N aqueous sodium hydroxide solution. The resultant solution is left at 5° C. for 18 hours. A solution of 3.46 g (19.1 mmol) of 5-chlorothiophenecarbonyl chloride in 10 ml of acetone is added dropwise to this solution at an internal temperature of 0-5° C. During the dropwise addition, the pH is held at a value above 7 by addition of solid sodium hydrogencarbonate. When the addition is complete, the mixture is allowed to warm to room temperature, water is added, and the mixture is extracted with tert-butyl methyl ether The aqueous phase is acidified using 1N HCl and extracted with tert-butyl methyl ether. This organic phase is dried over sodium sulfate and evaporated, giving 3-(5-chlorothiophene-2-carbonyl)oxazolidine-5-carboxylic acid as a colourless solid; ESI 262.

reactant | formaldehyde | C=O | CH2O
reactant | DL-isoserine | 19.0 mmol, 2.00 g | C(C(C(=O)O)O)N | C3H7NO3
reactant | 5-chlorothiophenecarbonyl chloride | 19.1 mmol, 3.46 g | ClC1=CC=C(S1)C(=O)Cl | C5H2Cl2OS
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 3-(5-chlorothiophene-2-carbonyl)oxazolidine-5-carboxylic acid | ClC1=CC=C(S1)C(=O)N1COC(C1)C(=O)O | C9H8ClNO4S
